US04500346
12,1 g of hydroquinone were dissolved in 60 ml of dry dimethylformamide, and while blowing a slow stream of nitrogen into the solution, 31,7 g of potassium carbonate were added thereto at room temperature whilst stirring. Then the mixture was heated to 90° to 95° C. for one hour with stirring. The mixture was cooled to 60° C., and 30.3 g of 2-benzylthioethyl 2-bromopropionate were added dropwise thereto. After the addition was completed, the mixture was further heated to 90° C. for 2 hours. After cooling the reaction mixture to room temperature, it was poured into ice-water and adjusted to pH 7. Then it was extracted with 100 ml of chloroform. The organic phase was dried and the chloroform was distilled off under reduced pressure. The end product of 2-benzylthioethyl 2-(4-hydroxy-phenoxy)-propionate was obtained in a yield of 25.2 g in the form of a brown oil. nD20 =1.5706.

reactant | hydroquinone | 12,1 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 31,7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-benzylthioethyl 2-bromopropionate | 30.3 g | BrC(C(=O)OCCSCC1=CC=CC=C1)C | C12H15BrO2S
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-benzylthioethyl 2-(4-hydroxy-phenoxy)-propionate | OC1=CC=C(OC(C(=O)OCCSCC2=CC=CC=C2)C)C=C1 | C18H20O4S
